US04539150
Preparation of 3-(1-ethoxycarbonyl-3-phenylpropylamino)-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
1.8 g of 3-amino-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride was mixed with 2.5 g of ethyl benzylpyruvate and 30 ml of ethanol, and the resulting mixture was adjusted to pH 5-7 with a saturated aqueous solution of sodium carbonate. After the mixture was allowed to stand for 2 hours, a solution of 0.7 g of sodium boron cyanide hydride in 10 ml of ethanol was added dropwise thereto over a period of one hour. To this mixture were added 5 ml of acetic acid and then 2.5 g of ethyl benzylpyruvate. After 2 hours, 2.0 g of ethyl benzylpyruvate was added and the mixture was allowed to stand overnight. After the ethanol was distilled off, 5 ml of concentrated hydrochloric acid was added to the residue and the resulting mixture was stirred for an hour. After the addition of 80 ml of water, the mixture was extracted with ether. 5 ml of hydrogen chloride-ether was added to the ether extract and the separated oily material was isolated. Further, 10 ml of 6N hydrochloric acid was added to the ether layer, and the resulting mixture was stirred for a while and then allowed to stand. The lower layer was isolated and combined with the previously obtained oily material, followed by washing with ether. The aqueous layer was adjusted to pH 2-3 with a sodium hydroxide solution and then extracted with ether. After drying over anhydrous sodium sulfate, the product was concentrated to obtain 1.28 g of the desired compound in the form of an oily material.

reactant | 3-amino-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrochloride | 1.8 g | Cl.NC1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2
reactant | ethyl benzylpyruvate | 2.5 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium boron cyanide hydride | 0.7 g | [BH]C#N.[Na]
reactant | ethyl benzylpyruvate | 2.5 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | ethyl benzylpyruvate | 2.0 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(1-ethoxycarbonyl-3-phenylpropylamino)-5-ethoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.28 g | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1CSC2=C(N(C1=O)CC(=O)OCC)C=CC=C2 | C25H30N2O5S
